US07538131B2
Diethyl ketone is reacted with isoamyl nitrite and HCl in diethyl ether, resulting in pentane-2,3-dione 2-oxime (G. Buechi, J. Galindo, J. Org. Chem. (1991) 56(8), 2605-2606). The latter is reacted with p-methylbenzaldehyde and HCl in acetic acid to give 5-ethyl-4-methyl-2-p-tolyloxazole 3-oxide (P. M. Weintraub, J. Med. Chem. (1972) 15(4), 419-420). Boiling this compound with phosphoryl chloride in chloroform results in 4-chloromethyl-5-ethyl-2-p-tolyloxazole (M. S. Malamas, R. P. Carlson, D. Grimes, R. Howell, K. Glaser, I. Gunawan, J. A. Nelson, M. Kanzelberger, U. Shah, D. A. Hartman, J. Med. Chem. (1996) 39(1), 237-245). This compound is heated with sodium iodide in acetone under reflux, resulting in 5-ethyl-4-iodomethyl-2-p-olyloxazole (A., Ziatkov, P., Peikov, J., Rodriguez-Alvarez, N., Danchev, I., Nikolova, J., Mitkov, Eur. J. Med. Chem. Chim. Ther. (2000) 35(10), 941-948). These are also incorporated herein by reference

reactant | Diethyl ketone | C(C)C(=O)CC | C5H10O
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | HCl | Cl | ClH
reactant | p-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | pentane-2,3-dione 2-oxime | CC(C(CC)=O)=NO | C5H9NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-ethyl-4-methyl-2-p-tolyloxazole 3-oxide | C(C)C1=C([N+](=C(O1)C1=CC=C(C=C1)C)[O-])C | C13H15NO2
